US04927838
(E)-3-(1-Butyl-4,7-dimethoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester
As in Example 113, (E)-3-(1-butyl-4,7-dimethoxy-2-naphthalenyl)-2-propenoic acid (0.71 g) was treated with 4-nitrophenol (0.35 g) in dichloromethane (10 mL) in the presence of 1,3-dicyclohexylcarbodiimide (0.475 g) to furnish, after the normal work up and crystallization of the crude product from 2-propanol, 1.17 g of (E)-3-(1-butyl-4,7-dimethoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester., mp 144°-145.5° C. Anal. Calcd for C25H25NO6 : C, 68.95; H, 5.79; N, 3.22 Found: C, 69.05; H, 5.74; N, 3.25

reactant | (E)-3-(1-butyl-4,7-dimethoxy-2-naphthalenyl)-2-propenoic acid | 0.71 g | C(CCC)C1=C(C=C(C2=CC=C(C=C12)OC)OC)/C=C/C(=O)O | C19H22O4
reactant | 4-nitrophenol | 0.35 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 0.475 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (E)-3-(1-Butyl-4,7-dimethoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC(=CC=C2C(=C1)OC)OC)CCCC)=O | C25H25NO6
